US04001244
To a mixture of 2.5 parts of 2-diisopropylaminoethylamine and 12 parts of triethylamine in approximately 225 parts of chloroform is added portionwise, at room temperature, a solution of 5.0 parts of 6,7-dimethoxy-1-(4-methoxyphenyl)-3,4-dihydro-2(1H)-isoquinolinecarbonyl chloride in about 75 parts of chloroform. The reaction mixture is stirred for 3 to 5 hours, allowed to stand overnight and then poured into water. The chloroform layer is separated, dried over anhydrous calcium sulfate and stripped of solvent under reduced pressure. The resultant oil is triturated with n-hexane to give a solid. Crystallization of that solid from ethyl ether affords N-(2-diisopropylaminoethyl)-6,7-dimethoxy-1-(4-methoxyphenyl)-3,4-dihydro-2(1H)-isoquinolinecarboxamide as a low melting solid. That compound is characterized by infrared absorption maxima in chloroform at about 1640 and 3400 cm-1.

reactant | 2-diisopropylaminoethylamine | C(C)(C)N(CCN)C(C)C | C8H20N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | 6,7-dimethoxy-1-(4-methoxyphenyl)-3,4-dihydro-2(1H)-isoquinolinecarbonyl chloride | COC=1C=C2CCN(C(C2=CC1OC)C1=CC=C(C=C1)OC)C(=O)Cl | C19H20ClNO4
solvent | water | O | H2O
product | N-(2-diisopropylaminoethyl)-6,7-dimethoxy-1-(4-methoxyphenyl)-3,4-dihydro-2(1H)-isoquinolinecarboxamide | C(C)(C)N(CCNC(=O)N1C(C2=CC(=C(C=C2CC1)OC)OC)C1=CC=C(C=C1)OC)C(C)C | C27H39N3O4
